US04507297
In a manner similar to Example 9, ethyl (2S,3S)-3-[(s)-3-methyl-1-{4-(2-pyrimidinyl)piperazine-1-yl carbonyl}-butylcarbamoyl]oxirane-2-carboxylate was hydrolyzed with sodium hydroxide to yield sodium (2S,3S)-3-[(s)-3-methyl-1-{4-(2-pyrimidinyl)piperazine-1-yl carbonyl}butylcarbamoyl]-oxirane-2-carboxylate.

reactant | ethyl (2S,3S)-3-[(s)-3-methyl-1-{4-(2-pyrimidinyl)piperazine-1-yl carbonyl}-butylcarbamoyl]oxirane-2-carboxylate | CC(C[C@@H](C(=O)N1CCN(CC1)C1=NC=CC=N1)NC(=O)[C@@H]1[C@H](O1)C(=O)OCC)C | C20H29N5O5
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium (2S,3S)-3-[(s)-3-methyl-1-{4-(2-pyrimidinyl)piperazine-1-yl carbonyl}butylcarbamoyl]-oxirane-2-carboxylate | CC(C[C@@H](C(=O)N1CCN(CC1)C1=NC=CC=N1)NC(=O)[C@@H]1[C@H](O1)C(=O)[O-])C.[Na+] | InChI=1S/C18H25N5O5.Na/c1-11(2)10-12(21-15(24)13-14(28-13)17(26)27)16(25)22-6-8-23(9-7-22)18-19-4-3-5-20-18;/h3-5,11-14H,6-10H2,1-2H3,(H,21,24)(H,26,27);/q;+1/p-1/t12-,13-,14-;/m0./s1
